US06110920
A solution of 2-(imidazol-1-yl)-6-methyl-4-(3-nitrobenzylamino)thieno[2,3-d]pyrimidine in methanol is hydrogenated in the presence of Raney nickel. The catalyst is filtered off and the solution is concentrated. After recrystallization, 2-(imidazol-1-yl)-6-methyl-4-(3-aminobenzylamino)thieno[2,3-d]pyrimidine is obtained.

reactant | 2-(imidazol-1-yl)-6-methyl-4-(3-nitrobenzylamino)thieno[2,3-d]pyrimidine | N1(C=NC=C1)C=1N=C(C2=C(N1)SC(=C2)C)NCC2=CC(=CC=C2)[N+](=O)[O-] | C17H14N6O2S
solvent | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 2-(imidazol-1-yl)-6-methyl-4-(3-aminobenzylamino)thieno[2,3-d]pyrimidine | N1(C=NC=C1)C=1N=C(C2=C(N1)SC(=C2)C)NCC2=CC(=CC=C2)N | C17H16N6S
